US07728018B2
Tetrahydro-pyran-4,4-dicarbonitrile
Malononitrile (5.0 g) was dissolved in DMSO (5 mL). Subsequently, bis(2-bromoethyl)ether (9.49 mL) and TBAB (1.22 g) were added, followed by portionwise addition of KOtBu (8.49 g). The mixture was stirred for 4 h. at room temperature, taken up in DCM and extracted 3 times with 5% aqueous NaHCO3. The organic phase was dried over Na2SO4 and evaporated under reduced pressure. The crude material was purified by flash chromatography eluting with PA:Et2O 65:35 (Rf=0.24, visualized with KMnO4) to give 2.49 g (24%) of a solid. 1H NMR (400 MHz, CDCl3) δ 2.24 (t, 4H), 3.87 (t, 4H).

reactant | Malononitrile | 5.0 g | C(CC#N)#N | C3H2N2
reactant | bis(2-bromoethyl)ether | 9.49 mL | BrCCOCCBr | C4H8Br2O
reactant | KOtBu | 8.49 g | CC(C)(C)[O-].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | TBAB | 1.22 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Tetrahydro-pyran-4,4-dicarbonitrile | 2.49 g, 24% | O1CCC(CC1)(C#N)C#N | C7H8N2O
